US09290517B2
(3R,3aS,6aR)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one oxime
A mixture of (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one (88 mg, 0.196 mmol) and hydroxylamine hydrochloride (39.5 mg, 0.568 mmol) in pyridine (0.5 ml) was stirred at room temperature for 2 hours. Then the reaction mixture was evaporated to give a foam, which was dissolved in methanol (2 mL) and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water to give the title compound. Major Oxime stereoisomer LC-MS: calculated for C24H19ClN4O4 462.11 observed m/e: 463.18 (M+H)+ (Rt 1.20/2 min); 1H NMR δ (ppm) (CD3OD): 7.94 (s, 1H), 7.76 (ABq, 4H), 7.71 (d, 2H), 7.49 (dd, 2H), 7.39 (dd, 1H), 5.62 (m, 1H), 5.14 (t, 1H), 5.00 (d, 1H), 4.63 (s, 2H), 4.27 (dd, 2H) and 4.08 (dd, 1H). (Contains a small amount of minor oxime stereoisomer).

reactant | (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | 0.196 mmol, 88 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=O | C24H18ClN3O4
reactant | hydroxylamine hydrochloride | 0.568 mmol, 39.5 mg | Cl.NO
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 2 mL | CO | CH4O
product | (3R,3aS,6aR)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one oxime | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=NO | C24H19ClN4O4
